US04882330
1-(3-Trifluoromethylphenoxy)-4-(4-phenyl-1-piperazinyl)-2-butanol
This compound was prepared according to the procedure of Example 6. A mixture of 2.4 g (0.015 mole) of 1-phenylpiperazine, 4.0 g (0.015 mole) of 4-chloro-1-(3-trifluoromethylphenoxy)-2-butanol and 5.3 g (0.05 mole) of anhydrous sodium carbonate in 100 ml of 1-butanol gave 2.5 g (42%) of a tan powder, m.p. 73°-74° C. Recrystallizing solvent used was ligroin.

reactant | 1-phenylpiperazine | 0.015 mole, 2.4 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | 4-chloro-1-(3-trifluoromethylphenoxy)-2-butanol | 0.015 mole, 4.0 g | ClCCC(COC1=CC(=CC=C1)C(F)(F)F)O | C11H12ClF3O2
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-(3-Trifluoromethylphenoxy)-4-(4-phenyl-1-piperazinyl)-2-butanol | 2.5 g, 42% | FC(C=1C=C(OCC(CCN2CCN(CC2)C2=CC=CC=C2)O)C=CC1)(F)F | C21H25F3N2O2
